US09403839B2
A solution of 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-8-one (148 mg, 0.35 mmol) in THF (1.8 mL) was cooled to 0° C. and treated with ethyl-magnesium bromide (42 μL of 1 M, 0.42 mmol). The reaction mixture was stirred for 2 h and was quenched by the addition of saturated aqueous ammonium chloride. The mixture was extracted with ethyl acetate (3×100 mL) and the combined organics were washed with saturated aqueous sodium chloride, dried over sodium sulfate, filtered and concentrated under reduced pressure. The resultant oil was diluted with dichloromethane (2 mL) and treated with pyridine (34 μL, 0.42 mmol). The reaction mixture was cooled to 0° C. and treated with thionyl chloride (28 μL, 0.39 mmol) dropwise. The reaction mixture was stirred for 90 min, quenched with ice-cold water (5 mL), and diluted with CH2Cl2 (80 mL). The mixture was washed with dilute HCl (5%, 2×15 mL), water (2×20 mL), and sodium bicarbonate (5%, 15 mL). The organic layer was dried over sodium sulfate, filtered, and concentrated in vacuo. The crude product was purified on silica gel utilizing a gradient 50-100% ethyl acetate in hexanes to yield [8-ethyl-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-7-en-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone (90 mg) ESI-MS m/z calc. 434.26, found 435.3 (M+1)+; Retention time: 1.74 minutes (3 min run).

reactant | 3-(4-isopropoxy-3-methyl-benzoyl)-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undecan-8-one | 0.35 mmol, 148 mg | C(C)(C)OC1=C(C=C(C(=O)N2CCC3(CC2)CC(CC(O3)C=3C=NC=CC3)=O)C=C1)C | C25H30N2O4
reactant | ethyl-magnesium bromide | 0.42 mmol, 1 M, 42 μL | C(C)[Mg]Br
reactant | pyridine | 0.42 mmol, 34 μL | N1=CC=CC=C1 | C5H5N
reactant | thionyl chloride | 0.39 mmol, 28 μL | S(=O)(Cl)Cl | Cl2OS
solvent | THF | 1.8 mL | C1CCOC1 | C4H8O
product | [8-ethyl-10-(3-pyridyl)-11-oxa-3-azaspiro[5.5]undec-7-en-3-yl]-(4-isopropoxy-3-methyl-phenyl)methanone | 90 mg | C(C)C1=CC2(CCN(CC2)C(=O)C2=CC(=C(C=C2)OC(C)C)C)OC(C1)C=1C=NC=CC1 | C27H34N2O3
